2177-11-15 05:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2177-11-14**] 10:00 AM
   - ID approval of Zosyn
   - IP tapped pleural effusion
   - Legionella culture is pending, if negative d/c levo
   - Cont. study medication.
   - Transfused two units of pRBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2177-11-14**] 11:00 AM
   Piperacillin - [**2177-11-15**] 12:39 AM
   Vancomycin - [**2177-11-15**] 01:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-11-14**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-15**] 05:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 104 (91 - 106) bpm
   BP: 126/72(84) {77/47(57) - 135/84(96)} mmHg
   RR: 20 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 87.5 kg
   Height: 69 Inch
    CVP: 7 (6 - 10)mmHg
   Total In:
                                                                  3,608 mL
                                                                    358 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                  2,888 mL
                                                                    358 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    600 mL
   Urine:
                                                                  2,100 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
                                                                    800 mL
   Balance:
                                                                    708 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   Gen: NAD, flushed, Aox3 easily able to relate history
   HEENT: right IJ in place, mild JVD, no LAD, benign OP
   CV: RRR, no MRG
   PULM: mild bilateral crackles, good air movement, no labored breathing
   ABD: soft, NT/ ND; guiac negative
   EXT: warm well perfused
   Labs / Radiology
   233 K/uL
   8.6 g/dL
   147 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   23 mg/dL
   101 mEq/L
   130 mEq/L
   23.9 %
   14.7 K/uL
        [image002.jpg]
                            [**2177-11-14**]  05:11 AM
                            [**2177-11-14**]  08:28 AM
                            [**2177-11-14**]  10:48 PM
   WBC
   14.7
   Hct
   24.7
   24.1
   23.9
   Plt
   233
   Cr
   1.2
   TropT
   <0.01
   Glucose
   147
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:34//<0.01, Alk Phos / T Bili:/0.9, Lactic Acid:1.3 mmol/L,
   LDH:344 IU/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A/P: 75yo M w/stage IV lung cancer, DM type 2, afib, HTN, CRI p/w
   pleuritic CP, PNA, hypotention and afib with RVR.
   .
   # Hypotension: Pt currently off pressors, hemodynamically stable but
   per patient reports in normally hypertensive and on BP meds.  Is on PO
   Diltiazem with little effect on BP.  Repeat lactate was 1.3.  Possible
   prior sepsis.
   - f/u blood cultures
   - continue Vanc, Zosyn, Levo for possible sepsis
   - continue to monitor on tele
   - holding enalapril
   - check urine legionella and viral swab
   .
   # PNA:  Pt is immunospupressed with recent chemo therapy although not
   neutropenic at this time.  ? post-obstructive PNA with pleural effusion
   present.
   -Vanc, Zosyn and Levo
   - f/u blood and urine cultures
   - Interventional Pulmonary consult for tap of effusion.   Would
   consider [**Last Name (un) **] drainage if appears to be infected or empyema.
   .
   # Pleuritic CP: Patient likely has PNA with fever, elevated WBC,
   pleuritic pain and productive cough. CTA did not show infiltrate
   specifically but lung mass makes asessment difficult and pt is at risk
   for post-obstructive PNA. CTA neg for PE. Alternatively, pt's CP may be
   secondary to tumor irritation of the pleura although this should not
   cause fever and leukocytosis. EKG w/o ischemic changes and trop neg.
   - tx pain as below
   .
   # Anemia: HCT drop from 33 to 24 today.  Patient is guiac negative, no
   reports of bleeding.  Possibly multifactorial with dilutional effect
   from 3L NS and recent chemotherapy.
   - continue to monitor
   - maintain active type and screen
   - DIC and hemolysis labs
   .
   # Afib: pt currently rate controlled on diltiazem drip, will transition
   to Po's. As pt is doing well on IV diltiazem will convert to PO
   diltiazem and dc atenolol. Afib is likely driven by infection and lung
   mass. Patient is not anticoagulated [**2-15**] lung mass and prior hemoptysis.
   - wean dilt drip
   - diltiazem 30mg QID
   - avoid albuterol
   .
   # Non-small cell lung ca: LLL mass with met to spine s/p radiation
   - standing zofran and ativan to avoid nausea
   - hydrocodone or tramadol PRN
   - per heme/onc; will continue study trial medication (Anamorelin) which
   patient needs to bring in. He will have family member bring it in.
   .
   # COPD:
   - cont advair
   - exhange ipratropium for tioroptrium
   - avoid albuterol for now
   .
   # DM 2:
   - not on medications
   - SSI
   .
   # hx CRI: creatinine at baseline
   .
   #) Prophylaxis: sc heparin, bowel regimen
   .
   #) FEN: regular diet
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment; may be called out to
   floor later today (OMED)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-11-13**] 08:00 PM
   18 Gauge - [**2177-11-13**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-11-15 12:23:00 Physician Attending Progress Note
Chief Complaint: HOTN/sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo man with Stage IV NSC lung CA, on experimental therapy, recent
   chemo.  Had fever, SOB at home with Temp 100.4.  In ED CTA negative.
   becamse HOTNsive.  Fluid boluses, AF with RVR, dilt IV with decreased
   HR.
   24 Hour Events:
 THORACENTESIS - At [**2177-11-14**] 10:00 AM 800CC fluid c/w exudate.
   Started on Zosyn.
   Got transfused 2U.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2177-11-14**] 11:00 AM
   Vancomycin - [**2177-11-15**] 01:00 AM
   Piperacillin - [**2177-11-15**] 06:00 AM
   Levofloxacin - [**2177-11-15**] 10:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-11-15**] 08:00 AM
   Other medications:
   ativan
   neo 0.5
   folate
   SSI
   simvastatin
   advair
   vanco
   levo
   zosyn
   diltiazem (held)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-15**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 120 (91 - 120) bpm
   BP: 90/53(63) {79/50(58) - 135/84(96)} mmHg
   RR: 28 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 87.5 kg
   Height: 69 Inch
   CVP: 20 (6 - 20)mmHg
   Total In:
                                                                  3,608 mL
                                                                    594 mL
   PO:
                                                                    720 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,888 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,030 mL
   Urine:
                                                                  2,100 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
                                                                    800 mL
   Balance:
                                                                    708 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.3 g/dL
   157 K/uL
   96 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.4 mEq/L
   16 mg/dL
   97 mEq/L
   127 mEq/L
   24.6 %
   9.4 K/uL
        [image002.jpg]
                            [**2177-11-14**]  05:11 AM
                            [**2177-11-14**]  08:28 AM
                            [**2177-11-14**]  10:48 PM
                             [**2177-11-15**]  06:27 AM
   WBC
   14.7
   9.4
   Hct
   24.7
   24.1
   23.9
   24.6
   Plt
   233
   157
   Cr
   1.2
   1.0
   TropT
   <0.01
   Glucose
   147
   96
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:34//<0.01, Alk Phos / T Bili:/0.9, Lactic Acid:1.3 mmol/L,
   LDH:344 IU/L, Ca++:7.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: pleural fluid:  LDH 245 (serium 344)
   WBC 850, 52% polys
   Assessment and Plan
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP):  can stop levoflox as
   Lg antigen is negative.
 ANEMIA, OTHER
 .H/O ATRIAL FIBRILLATION (AFIB):   Load with dig for better HR
   control.  Hold dilt for now due to hypotension
 SEPSIS WITHOUT ORGAN DYSFUNCTION:  Hypotensive requiring neo, unclear
   if this is due to sepsis.   Continue vanco/zosyn.  [**Month (only) 11**] be hypovolemic
   Hyponatremia:  try fluid boluses, may be hypovolemic.
   Lung CA:  S/p recent chemo
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-11-13**] 08:00 PM
   18 Gauge - [**2177-11-13**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2177-11-16 05:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Dilt stopped, loaded with digoxin for rate control & to prevent
   hypotension
   Neo drip weaned to off at 9pm last night.
   Levofloxacin stopped as urinary legionella negative.
   Pt rec'd 1L NS for hyponatremia, repeat Na increased from 128 to 129,
   urine studies consistent with SIADH with elevated UNa to 120.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2177-11-14**] 11:00 AM
   Levofloxacin - [**2177-11-15**] 10:00 AM
   Piperacillin - [**2177-11-16**] 12:00 AM
   Vancomycin - [**2177-11-16**] 12:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-11-16**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-16**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98.1
   HR: 118 (105 - 121) bpm
   BP: 116/67(79) {75/43(53) - 126/70(82)} mmHg
   RR: 23 (10 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 87.5 kg
   Height: 69 Inch
    CVP: 5 (5 - 20)mmHg
   Total In:
                                                                  2,488 mL
                                                                    300 mL
   PO:
                                                                    510 mL
   TF:
   IVF:
                                                                  1,978 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                  1,850 mL
   Urine:
                                                                  2,840 mL
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -352 mL
                                                                 -1,550 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   114 K/uL
   8.1 g/dL
   140 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   130 mEq/L
   23.4 %
   3.6 K/uL
        [image002.jpg]
                            [**2177-11-14**]  05:11 AM
                            [**2177-11-14**]  08:28 AM
                            [**2177-11-14**]  10:48 PM
                             [**2177-11-15**]  06:27 AM
                             [**2177-11-16**]  02:13 AM
   WBC
   14.7
   9.4
   3.6
   Hct
   24.7
   24.1
   23.9
   24.6
   23.4
   Plt
   233
   157
   114
   Cr
   1.2
   1.0
   1.0
   TropT
   <0.01
   Glucose
   147
   96
   140
   Other labs: PT / PTT / INR:14.9/42.5/1.3, CK / CKMB /
   Troponin-T:34//<0.01, Alk Phos / T Bili:/0.9, Lactic Acid:1.3 mmol/L,
   LDH:344 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   A/P: 75yo M w/stage IV lung cancer, DM type 2, afib, HTN, CRI p/w
   pleuritic CP, PNA, hypotention and afib with RVR.
   .
   # Hypotension: Pt has been off pressors since 9pm last night.  Received
   Diltiazem this AM for HR in 120s.  BP dropped to 80s systolic.  Pt is
   asymptomatic, feels well.
   - will transfuse 1 unit PRBCs for fluid resuscitation.  NS will likely
   be excreted given SIADH.  Will hold on restarting pressors until
   effects of Dilt wear off as pt is asymptomatic.
   - f/u blood cultures
   - continue Vanc, Zosyn, for possible sepsis; levo stopped given
   legionella antigen negative
   - continue to monitor on tele
   - holding enalapril
   - Continue digoxin for rate control to minimize BP effect
   - consider restarting B-blocker for rate control once BP improves
   .
   # Decreased WBCs: Not yet neutropenic; however decreased WBCs likely
   from chemotherapy on Monday.
   - check diff today
   - will continue to monitor for neutropenia
   .
   # PNA:  Pt is immunospupressed with recent chemo therapy although not
   neutropenic at this time.  Pleural effusion was exudative, but not an
   empyema.
   -cont. Vanc, Zosyn; Levo stopped
   - f/u blood and urine cultures
   - f/u pleural effusion cytology
   .
   # Pleuritic CP: Patient likely has PNA with fever, elevated WBC,
   pleuritic pain and productive cough. CTA did not show infiltrate
   specifically but lung mass makes asessment difficult and pt is at risk
   for post-obstructive PNA. CTA neg for PE. Alternatively, pt's CP may be
   secondary to tumor irritation of the pleura although this should not
   cause fever and leukocytosis. EKG w/o ischemic changes and trop neg.
   - tx pain as below
   .
   # Anemia: HCT stable at  24 today.  Patient is guiac negative, no
   reports of bleeding.  Possibly multifactorial with dilutional effect
   from 3L NS and recent chemotherapy.
   - transfuse 1 unit PRBCs this AM
   - maintain active type and screen
   .
   # Afib: Digoxin started yesterday.  Pt was tachy this AM in the 120s,
   responded to Dilt but dropped BP.  Will reassess and consider b-blocker
   in the PM.  Patient is not anticoagulated [**2-15**] lung mass and prior
   hemoptysis.
   - Digoxin load then dose daily
   - avoid albuterol
   - consider B-blocker this afternoon; would not continue with diltiazem
   given concern of hypotension
   .
   # Non-small cell lung ca: LLL mass with met to spine s/p radiation
   - stop zofran and switch to compazine per oncology recs.  Cont. ativan
   prn to avoid nausea
   - hydrocodone or tramadol PRN
   - will continue study trial medication Anamorelin
   .
   # COPD:
   - cont advair
   - exhange ipratropium for tioroptrium
   - avoid albuterol for now
   .
   # DM 2:
   - not on medications
   - SSI
   .
   # hx CRI: creatinine at baseline
   .
   #) Prophylaxis: sc heparin, bowel regimen
   .
   #) FEN: regular diet; 1L NS with KCl today; replete other lytes.
   - nutrition consult for poor PO intake
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment; may be called out to
   floor later today (OMED)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-11-13**] 08:00 PM
   18 Gauge - [**2177-11-13**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-11-16 11:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo man with NSCLCa, admitted with fever, HOTN, AF with RVR.
   24 Hour Events:
   weaned off neo overnight.  Doing better, still tachycardic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2177-11-15**] 10:00 AM
   Piperacillin - [**2177-11-15**] 06:00 PM
   Vancomycin - [**2177-11-16**] 12:32 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-11-16**] 06:28 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-11-16**] 08:38 AM
   Other medications:
   ativan 1mg po bid
   folate
   SSI
   simvastatin
   advair
   atrovent
   digoxin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-16**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.4
C (97.6
   HR: 111 (105 - 127) bpm
   BP: 88/47(58) {88/43(57) - 126/67(92)} mmHg
   RR: 21 (10 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 87.5 kg
   Height: 69 Inch
   CVP: 9 (5 - 12)mmHg
   Total In:
                                                                  2,538 mL
                                                                    400 mL
   PO:
                                                                    510 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,028 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                  2,195 mL
   Urine:
                                                                  2,840 mL
                                                                  2,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -302 mL
                                                                 -1,795 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   114 K/uL
   140 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   130 mEq/L
   23.4 %
   3.6 K/uL
        [image002.jpg]
                            [**2177-11-14**]  05:11 AM
                            [**2177-11-14**]  08:28 AM
                            [**2177-11-14**]  10:48 PM
                             [**2177-11-15**]  06:27 AM
                             [**2177-11-16**]  02:13 AM
   WBC
   14.7
   9.4
   3.6
   Hct
   24.7
   24.1
   23.9
   24.6
   23.4
   Plt
   233
   157
   114
   Cr
   1.2
   1.0
   1.0
   TropT
   <0.01
   Glucose
   147
   96
   140
   Other labs: PT / PTT / INR:14.9/42.5/1.3, CK / CKMB /
   Troponin-T:34//<0.01, Alk Phos / T Bili:/0.9, Lactic Acid:1.3 mmol/L,
   LDH:344 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Microbiology: no growth to date in blood or urine.
   Assessment and Plan
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER:  Transfuse to improve intravascular volume
 .H/O ATRIAL FIBRILLATION (AFIB):  Use beta-blocker for HR control as
   dilt is making him hypotensive.  Consider not continuing dig as it has
   had no effect.
   Acute renal failure:  creatinine improving, is autodiuresing maybe from
   post mild ATN.
 SEPSIS WITHOUT ORGAN DYSFUNCTION: Continue vanco and zosyn
   Lung CA:  may become neutropenic soon, continue antibiotics.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-11-13**] 08:00 PM
   18 Gauge - [**2177-11-13**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU consider transfering to floor later if BP stays
   stable.
   Total time spent: 35 minutes

2177-11-17 06:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   WBCs falling
   Got 1 unit PRBCs, 1L NS yesterday
   IV team unable to get PIVs; pt still has IJ and EJ
   Started on Metoprolol 12.5mg [**Hospital1 **]
   Got Metoprolol 25mg PO X 1 overnight (1am)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2177-11-15**] 10:00 AM
   Piperacillin - [**2177-11-15**] 06:00 PM
   Vancomycin - [**2177-11-16**] 12:32 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-11-16**] 11:58 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-11-16**] 10:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-17**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 120 (105 - 125) bpm
   BP: 109/62(74) {88/47(58) - 124/81(92)} mmHg
   RR: 26 (21 - 30) insp/min
   SpO2: 62%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 87.5 kg
   Height: 69 Inch
    CVP: 12 (8 - 13)mmHg
   Total In:
                                                                  2,125 mL
   PO:
                                                                    350 mL
   TF:
   IVF:
                                                                  1,400 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,505 mL
                                                                  1,115 mL
   Urine:
                                                                  3,505 mL
                                                                  1,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,380 mL
                                                                 -1,115 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 62%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   108 K/uL
   9.2 g/dL
   117 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.2 mEq/L
   13 mg/dL
   102 mEq/L
   133 mEq/L
   26.9 %
   2.3 K/uL
        [image002.jpg]
                            [**2177-11-14**]  05:11 AM
                            [**2177-11-14**]  08:28 AM
                            [**2177-11-14**]  10:48 PM
                             [**2177-11-15**]  06:27 AM
                             [**2177-11-16**]  02:13 AM
                             [**2177-11-16**]  06:49 PM
                             [**2177-11-17**]  05:02 AM
   WBC
   14.7
   9.4
   3.6
   2.3
   Hct
   24.7
   24.1
   23.9
   24.6
   23.4
   26.9
   Plt
   233
   157
   114
   108
   Cr
   1.2
   1.0
   1.0
   1.0
   TropT
   <0.01
   Glucose
   147
   96
   140
   117
   Other labs: PT / PTT / INR:14.9/42.5/1.3, CK / CKMB /
   Troponin-T:34//<0.01, Alk Phos / T Bili:/0.9, Differential-Neuts:79.3
   %, Lymph:11.7 %, Mono:1.6 %, Eos:7.2 %, Lactic Acid:1.3 mmol/L, LDH:344
   IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   A/P: 75yo M w/stage IV lung cancer, DM type 2, afib, HTN, CRI p/w
   pleuritic CP, PNA, hypotention and afib with RVR.
   .
   # Hypotension: Pt has been off pressors since 9pm last night.  Received
   Diltiazem this AM for HR in 120s.  BP dropped to 80s systolic.  Pt is
   asymptomatic, feels well.
   - will transfuse 1 unit PRBCs for fluid resuscitation.  NS will likely
   be excreted given SIADH.  Will hold on restarting pressors until
   effects of Dilt wear off as pt is asymptomatic.
   - f/u blood cultures
   - continue Vanc, Zosyn, for possible sepsis; levo stopped given
   legionella antigen negative
   - continue to monitor on tele
   - holding enalapril
   - Continue digoxin for rate control to minimize BP effect
   - consider restarting B-blocker for rate control once BP improves
   .
   # Decreased WBCs: Not yet neutropenic; however decreased WBCs likely
   from chemotherapy on Monday.
   - check diff today
   - will continue to monitor for neutropenia
   .
   # PNA:  Pt is immunospupressed with recent chemo therapy although not
   neutropenic at this time.  Pleural effusion was exudative, but not an
   empyema.
   -cont. Vanc, Zosyn; Levo stopped
   - f/u blood and urine cultures
   - f/u pleural effusion cytology
   .
   # Pleuritic CP: Patient likely has PNA with fever, elevated WBC,
   pleuritic pain and productive cough. CTA did not show infiltrate
   specifically but lung mass makes asessment difficult and pt is at risk
   for post-obstructive PNA. CTA neg for PE. Alternatively, pt's CP may be
   secondary to tumor irritation of the pleura although this should not
   cause fever and leukocytosis. EKG w/o ischemic changes and trop neg.
   - tx pain as below
   .
   # Anemia: HCT stable at  24 today.  Patient is guiac negative, no
   reports of bleeding.  Possibly multifactorial with dilutional effect
   from 3L NS and recent chemotherapy.
   - transfuse 1 unit PRBCs this AM
   - maintain active type and screen
   .
   # Afib: Digoxin started yesterday.  Pt was tachy this AM in the 120s,
   responded to Dilt but dropped BP.  Will reassess and consider b-blocker
   in the PM.  Patient is not anticoagulated [**2-15**] lung mass and prior
   hemoptysis.
   - Digoxin load then dose daily
   - avoid albuterol
   - consider B-blocker this afternoon; would not continue with diltiazem
   given concern of hypotension
   .
   # Non-small cell lung ca: LLL mass with met to spine s/p radiation
   - stop zofran and switch to compazine per oncology recs.  Cont. ativan
   prn to avoid nausea
   - hydrocodone or tramadol PRN
   - will continue study trial medication Anamorelin
   .
   # COPD:
   - cont advair
   - exhange ipratropium for tioroptrium
   - avoid albuterol for now
   .
   # DM 2:
   - not on medications
   - SSI
   .
   # hx CRI: creatinine at baseline
   .
   #) Prophylaxis: sc heparin, bowel regimen
   .
   #) FEN: regular diet; 1L NS with KCl today; replete other lytes.
   - nutrition consult for poor PO intake
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment; may be called out to
   floor later today (OMED)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-11-13**] 08:00 PM
   18 Gauge - [**2177-11-13**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-11-18 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2177-11-17**] 03:01 PM
 ANGIOGRAPHY - At [**2177-11-17**] 05:00 PM
   R brachial PICC line re-positioned in angio
 PRESEP CATHETER - STOP [**2177-11-17**] 06:33 PM
   [**Known lastname 253**]:
   - Increased metoprolol to 25mg TID, then to 50 TID because of poorly
   controled HR.
   - ID approved Vanc and Zosyn
   - F/u cytology of pleural effusion.
   - Dig level drawn: follow up
   - PICC line placed into carotid, pulled and placed again under IR.
   - Called out to OMED.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2177-11-15**] 10:00 AM
   Piperacillin - [**2177-11-15**] 06:00 PM
   Vancomycin - [**2177-11-17**] 10:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-11-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2177-11-17**] 10:58 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-17**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-18**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 112 (108 - 144) bpm
   BP: 95/56(66) {95/47(61) - 174/85(119)} mmHg
   RR: 21 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 86 kg (admission): 87.5 kg
   Height: 69 Inch
    CVP: 12 (7 - 21)mmHg
   Total In:
                                                                  1,090 mL
                                                                     50 mL
   PO:
                                                                    690 mL
   TF:
   IVF:
                                                                    400 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                    300 mL
   Urine:
                                                                  2,810 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,720 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   101 K/uL
   8.9 g/dL
   130 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   10 mg/dL
   100 mEq/L
   131 mEq/L
   25.1 %
   1.8 K/uL
        [image002.jpg]
                            [**2177-11-14**]  05:11 AM
                            [**2177-11-14**]  08:28 AM
                            [**2177-11-14**]  10:48 PM
                             [**2177-11-15**]  06:27 AM
                             [**2177-11-16**]  02:13 AM
                             [**2177-11-16**]  06:49 PM
                             [**2177-11-17**]  05:02 AM
                             [**2177-11-17**]  03:00 PM
                             [**2177-11-18**]  04:10 AM
   WBC
   14.7
   9.4
   3.6
   2.3
   1.8
   Hct
   24.7
   24.1
   23.9
   24.6
   23.4
   26.9
   25.1
   Plt
   233
   157
   114
   108
   101
   Cr
   1.2
   1.0
   1.0
   1.0
   0.9
   0.9
   TropT
   <0.01
   Glucose
   147
   96
   140
   117
   109
   140
   130
   Other labs: PT / PTT / INR:14.1/40.1/1.2, CK / CKMB /
   Troponin-T:34//<0.01, Alk Phos / T Bili:/0.9, Differential-Neuts:51.4
   %, Band:0.0 %, Lymph:31.3 %, Mono:3.7 %, Eos:13.5 %, Lactic Acid:1.3
   mmol/L, LDH:344 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 .H/O ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2177-11-17**] 03:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-11-18 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2177-11-17**] 03:01 PM
 ANGIOGRAPHY - At [**2177-11-17**] 05:00 PM
   R brachial PICC line re-positioned in angio
 PRESEP CATHETER - STOP [**2177-11-17**] 06:33 PM
   [**Known lastname 253**]:
   - Increased metoprolol to 25mg TID, then to 50 TID because of poorly
   controled HR.
   - ID approved Vanc and Zosyn
   - F/u cytology of pleural effusion.
   - Dig level drawn: 0.9
   - PICC line placed into carotid, pulled and placed again under IR.
   - Called out to OMED.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2177-11-15**] 10:00 AM
   Piperacillin - [**2177-11-15**] 06:00 PM
   Vancomycin - [**2177-11-17**] 10:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-11-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2177-11-17**] 10:58 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-17**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-18**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 112 (108 - 144) bpm
   BP: 95/56(66) {95/47(61) - 174/85(119)} mmHg
   RR: 21 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 86 kg (admission): 87.5 kg
   Height: 69 Inch
    CVP: 12 (7 - 21)mmHg
   Total In:
                                                                  1,090 mL
                                                                     50 mL
   PO:
                                                                    690 mL
   TF:
   IVF:
                                                                    400 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                    300 mL
   Urine:
                                                                  2,810 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,720 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, no murmurs, rubs, or gallops
   Peripheral Vascular: 2+ DP pulses
   Respiratory / Chest: (Breath Sounds: Still some crackles and decreased
   breath sounds at L lower base.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   101 K/uL
   8.9 g/dL
   130 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   10 mg/dL
   100 mEq/L
   131 mEq/L
   25.1 %
   1.8 K/uL
        [image002.jpg]
                            [**2177-11-14**]  05:11 AM
                            [**2177-11-14**]  08:28 AM
                            [**2177-11-14**]  10:48 PM
                             [**2177-11-15**]  06:27 AM
                             [**2177-11-16**]  02:13 AM
                             [**2177-11-16**]  06:49 PM
                             [**2177-11-17**]  05:02 AM
                             [**2177-11-17**]  03:00 PM
                             [**2177-11-18**]  04:10 AM
   WBC
   14.7
   9.4
   3.6
   2.3
   1.8
   Hct
   24.7
   24.1
   23.9
   24.6
   23.4
   26.9
   25.1
   Plt
   233
   157
   114
   108
   101
   Cr
   1.2
   1.0
   1.0
   1.0
   0.9
   0.9
   TropT
   <0.01
   Glucose
   147
   96
   140
   117
   109
   140
   130
   Other labs: PT / PTT / INR:14.1/40.1/1.2, CK / CKMB /
   Troponin-T:34//<0.01, Alk Phos / T Bili:/0.9, Differential-Neuts:51.4
   %, Band:0.0 %, Lymph:31.3 %, Mono:3.7 %, Eos:13.5 %, Lactic Acid:1.3
   mmol/L, LDH:344 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P: 75yo M w/stage IV lung cancer, DM type 2, afib, HTN, CRI p/w
   pleuritic CP, PNA, hypotention and afib with RVR.
   # Afib:  Metoprolol increased to 50 q 6 hours, but pt still tachy in
   110s-120s, with occasional breakthrough to 140s.  Digoxin started
   yesterday, and therapeutic today.  This AM pt has BP in 90s to 100s,
   and has dropped pressures in response to dilt in past..  Patient is not
   anticoagulated [**2-15**] lung mass and prior hemoptysis.  Asymptomatic
   throughout.  Increased difficulty controlling may be due to large lung
   mass resulting in pressure on atria.
   -Contact cardiologist (Dr. [**Last Name (STitle) 1867**] re: optimal rate control approach
   - Digoxin load then dose daily
   - avoid albuterol
   # Hypotension: Pt has been off pressors for several days..  Received
   Diltiazem this AM for HR in 120s.  Pt is asymptomatic, feels well.
   Hypotn may well have been [**2-15**] pneumonia.  Blood cx and sputum cx are
   pending.
   - f/u blood cultures
   - continue Vanc, Zosyn, for possible sepsis; levo stopped given
   legionella antigen negative
   - continue to monitor on tele
   - holding enalapril
   - Continue digoxin for rate control to minimize BP effect
   .
   # Decreased WBCs: Patient has ANC of 900, and has not yet reached
   nadir; will likely become neutropenic.  On vanco and Zosyn today, may
   take off once all cultures come back negative.
   -          f/u cx, then consider d/cing antibiotics
   -          If pt spikes, re-start vanco and Zosyn and reculture.
   #Pleural effusion:  Pleural effusion was exudative, but not an
   empyema.
   - f/u pleural effusion cytology
   .
   # Pleuritic CP: Patient likely has PNA with fever, elevated WBC,
   pleuritic pain and productive cough. CTA did not show infiltrate
   specifically but lung mass makes asessment difficult and pt is at risk
   for post-obstructive PNA. CTA neg for PE. Alternatively, pt's CP may be
   secondary to tumor irritation of the pleura although this should not
   cause fever and leukocytosis. EKG w/o ischemic changes and trop neg.
   - tx pain as below
   .
   # Anemia: HCT stable at  24 today.  Patient is guiac negative, no
   reports of bleeding.  Possibly multifactorial with dilutional effect
   from 3L NS and recent chemotherapy.
   - transfuse 1 unit PRBCs this AM
   - maintain active type and screen
   .
   .
   # Non-small cell lung ca: LLL mass with met to spine s/p radiation
   - stop zofran and switch to compazine per oncology recs.  Cont. ativan
   prn to avoid nausea
   - hydrocodone or tramadol PRN
   - will continue study trial medication Anamorelin
   #SIADH- likely contributing to decreasing sodium.  Given hypotension,
   not worth fluid restricting.
   # COPD:
   - cont advair
   - exhange ipratropium for tioroptrium
   - avoid albuterol for now
   .
   # DM 2:
   - not on medications
   - SSI
   .
   # hx CRI: creatinine at baseline
   .
   #) Prophylaxis: sc heparin, bowel regimen
   .
   #) FEN: regular diet; 1L NS with KCl today; replete other lytes.
   - nutrition consult for poor PO intake
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment; may be called out to
   floor later today (OMED)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2177-11-17**] 03:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-11-19 06:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2177-11-18**] 04:00 PM
   - Contact[**Name (NI) **] Dr. [**Last Name (STitle) 1867**] - inc metoprolol to 75 QID per his recs
   - Pt. tachycardic then flipped T waves, cardiac enzymes cycled
   - ECHO: small to moderate pericardial effusion without tamponade
   - Neupogen started per oncology recs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-11-18**] 11:57 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-11-18**] 11:57 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2177-11-18**] 02:15 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-18**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-19**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 103 (94 - 177) bpm
   BP: 123/70(80) {74/38(45) - 123/73(83)} mmHg
   RR: 22 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 87.5 kg
   Height: 69 Inch
                  Total In:
                                                                  2,275 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                  1,300 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,400 mL
                                                                    600 mL
   Urine:
                                                                  1,400 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    875 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular, no murmurs, friction rubs, or
   gallops appreciated
   Peripheral Vascular: 2+ DP pulses
   Respiratory / Chest: (Breath Sounds: Still some crackles and decreased
   breath sounds at L lower base, but improved.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows commands, Responds to: Verbal stimuli,
   Oriented (to): times 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   92 K/uL
   9.7 g/dL
   107 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   11 mg/dL
   103 mEq/L
   134
   28.6 %
   1.5 K/uL
        [image002.jpg]
                            [**2177-11-14**]  08:28 AM
                            [**2177-11-14**]  10:48 PM
                             [**2177-11-15**]  06:27 AM
                             [**2177-11-16**]  02:13 AM
                             [**2177-11-16**]  06:49 PM
                             [**2177-11-17**]  05:02 AM
                             [**2177-11-17**]  03:00 PM
                             [**2177-11-18**]  04:10 AM
                             [**2177-11-18**]  03:07 PM
                             [**2177-11-19**]  01:30 AM
   WBC
   9.4
   3.6
   2.3
   1.8
   Hct
   24.1
   23.9
   24.6
   23.4
   26.9
   25.1
   26.9
   Plt
   157
   114
   108
   101
   Cr
   1.0
   1.0
   1.0
   0.9
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   96
   140
   117
   109
   140
   130
   Other labs: PT / PTT / INR:13.51/31.7/1.2, CK / CKMB /
   Troponin-T:15//<0.01, Alk Phos / T Bili:/0.9, Differential-Neuts:51.4
   %, Band:0.0 %, Lymph:31.3 %, Mono:3.7 %, Eos:13.5 %, Lactic Acid:1.3
   mmol/L, LDH:344 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   granulocyte count 540
   Assessment and Plan
   A/P: 75yo M w/stage IV lung cancer, DM type 2, afib, HTN, CRI p/w
   pleuritic CP, PNA, hypotention and afib with RVR.
   # Afib: After episode of Afib in 170s with hypotension, metoprolol
   increased to 75 mg PO q 6 hours, and patient has subsequently done
   well, with rates in 100s and better controlled BP.  Patient also on
   digoxin, at therapeutic levels. Patient is not anticoagulated [**2-15**] lung
   mass and prior hemoptysis.  Asymptomatic throughout.  Increased
   difficulty controlling may be due to large lung mass resulting in
   pressure on atria.
   -Continue 75 mg PO q 6 hours
   - Check digoxin level
   - avoid albuterol
   # Pericardial effusion/ EKG changes- Pt had EKG changes from baseline,
   with diffuse T wave abnormalities, in no geographic distribution, and
   without cardiac enzyme elevation.  Pericarditis most likely diagnosis,
   and echo showed no constrictive physiology or tamponade.  NSAIDs
   previously held due to uncertainty re: need to start ASA, and patient
   is asymptomatic.  If patient is to receive medication for pericarditis,
   indomethacin would be preferred to ibuprofen.
   -given that patient is asymptomatic, hold indomethacin
   -if patient becomes hypotensive, low threshold for echocardiogram to
   rule out tamponade
   # Decreased WBCs: Patient has ANC of 540, borderline neutropenic, and
   has not yet reached nadir; will likely become neutropenic.  On vanco
   and Zosyn for post-obstructive pneumonia, which is more likely to
   remain given anatomic abnormalities [**2-15**] malignancy
   -          Continue antibiotics pending results of blood cultures
   -          If pt spikes, re-culture.
   # Hypotension: Pt has been off pressors for several days.  Pt is
   asymptomatic, feels well.  Hypotn may well have been [**2-15**] pneumonia.
   Blood cx and sputum cx are pending.  Occasional mild hypotension due to
   atrial fibrillation.  Finally,  patient is still likely behind on
   fluids from poor POs.
   -Continue antibiotics as above
   - continue to monitor on tele
   - holding enalapril
   - Continue digoxin for rate control to minimize BP effect
   #Pleural effusion:  Pleural effusion was exudative, but not an empyema.
    [**Month (only) 11**] be malignant, but given lack of symptoms, would be unlikely to
   benefit from pleurex catheter at this time.
   -          f/u pleural effusion cytology
   -          consider repeat chest CT before leaving hospital to evaluate
   pneumonia.
   .
   .
   # Anemia: HCT stable at  24 today.  Patient is guiac negative, no
   reports of bleeding.  Possibly multifactorial with dilutional effect
   from 3L NS and recent chemotherapy.
   - transfuse 1 unit PRBCs this AM
   - maintain active type and screen
   .
   .
   # Non-small cell lung ca: LLL mass with met to spine s/p radiation
   - stop zofran and switch to compazine per oncology recs.  Cont. ativan
   prn to avoid nausea
   - hydrocodone or tramadol PRN
   - will continue study trial medication Anamorelin
   #SIADH- likely contributing to decreasing sodium, but is increasing
   today.  Given hypotension, not worth fluid restricting.
   # COPD:
   - cont advair
   - exhange ipratropium for tioroptrium
   - avoid albuterol for now
   .
   # DM 2:
   - not on medications
   - SSI
   .
   # hx CRI: creatinine at baseline
   .
   #) Prophylaxis: sc heparin, bowel regimen
   .
   #) FEN: regular diet; 1L NS with KCl today; replete other lytes.
   -          nutrition consult for poor PO intake
   -          Check albumin level
   -          Replete calcium
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: Called out  today (OMED)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2177-11-17**] 03:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: